US04281000
A mixture of 25.0 g of 2-acetyl-6-methylpyridine and 35 ml. of N,N-dimethylformamide dimethylacetal is refluxed for 16 hours. The mixture is cooled and filtered to give 3-dimethylamino-1-(6-methyl-2-pyridyl)-2-propen-1-one as crystals, m.p. 97°-98° C.

reactant | 2-acetyl-6-methylpyridine | 25.0 g | C(C)(=O)C1=NC(=CC=C1)C | C8H9NO
reactant | N,N-dimethylformamide dimethylacetal | COC(N(C)C)OC | C5H13NO2
product | 3-dimethylamino-1-(6-methyl-2-pyridyl)-2-propen-1-one | CN(C=CC(=O)C1=NC(=CC=C1)C)C | C11H14N2O
